### ISSUE TITLE
feat(QPBT/Algebra): prove encoding and restricted decoding

### ISSUE THREAD

**Issue by Dengnifer** [Dengnifer/MIPStarRE-A#62]
### Motivation

Stage 4.3 needs the elementary low-degree encoding identity and the paper's
restricted decoder correctness result. These are the generic algebraic facts
later used by the Chapter 16 decoder, without taking on its full-field
representative API.

Base this work on merged PR #46. That PR adds `decodeFqRep` and `IsEncodingRep`
to `LowDegreeCodeTheorems.lean`; preserve those declarations unchanged.

### Target declarations

Prove these existing declarations without changing their public signatures:

1. `lowDegreeEnc_eq_dotProduct`
2. `decodeAt_lowDegreeEnc`

These are the only `sorry` sites in the two owned files at PR #46's head.

### Sources and proof order

- Paper encoding and cube interpolation:
  `references/qpbt-paper/04_preliminaries.tex:873-897`, especially
  `eq:low-degree-encoding-definition`.
- Paper restricted decoder identity:
  `references/qpbt-paper/04_preliminaries.tex:917-924`.
- Blueprint encoding and indicator-vector nodes:
  `blueprint/src/chapter/ch11_qpbt_algebra.tex:404-440`.
- Blueprint decoder node `def:decoding-map`:
  `blueprint/src/chapter/ch11_qpbt_algebra.tex:446-456`.

Proceed in dependency order:

1. Prove `lowDegreeEnc_eq_dotProduct` by evaluating the finite sum and scalar
   multiples.
2. Prove privately that `indicatorPoly y` evaluated at `cubeEmbed z` is the
   corresponding Kronecker delta.
3. Derive a private cube-interpolation lemma
   `lowDegreeEnc a (cubeEmbed z) = a z`.
4. Prove `decodeAt_lowDegreeEnc` by function extensionality, interpolation,
   `ha`, and the defining conditional in `decodeAt`.

Keep support results private unless an existing downstream declaration requires
a public name.

### Statement integrity

The paper states the dot-product identity over `F_q`; Lean proves the same
algebraic identity over any commutative ring. This weakens the ambient
assumptions without changing the conclusion and is a faithful generalization.

For decoding, the paper assumes `H` is a subset of `F_q` and `a` lies in
`H^M`. Lean represents `H` as `Finset K`, membership pointwise as `ha`, and
requires decidable equality for finite-set membership. These are faithful
representation boundary hypotheses. The conclusion is exactly
`Dec_H(g_a) = a`.

Do not add assumptions, alter quantifier order, or replace either conclusion.

### Ownership and non-goals

- Own only `MIPStarRE/QPBT/Algebra/LowDegreeCode.lean` and
  `MIPStarRE/QPBT/Algebra/LowDegreeCodeTheorems.lean`.
- Remove or update the stale "proof obligation in stage 4.1" wording when the
  proof is filled.
- Preserve PR #46's `decodeFqRep` and `IsEncodingRep` declarations.
- Do not edit `Algebra/Decoding.lean` or prove its full-field decoder lemmas.
- Do not assert `lowDegreeEncoding (decodeFqRep g) = g` for arbitrary `g`.
  That unrestricted identity is false and is documented in
  `docs/paper-gaps/qpbt_decoding-identity.tex`.
- Do not change encoding/decoder definitions, add public scaffolding, edit
  `MIPStarRE/QPBT.lean`, or add new proof holes.
- Do not mark the broader encoding blueprint nodes `\leanok`; they also contain
  degree and linearity assertions outside this packet. No blueprint edit is
  required.

### Acceptance

- Both target proofs contain no `sorry`, `admit`, axiom, or prohibited bypass.
- `#print axioms` for both targets contains no `sorryAx`.
- Public signatures and PR #46's surrounding declarations remain unchanged.
- Both owned files pass direct `lake env lean` checks and proof-debt scans.
- The targeted module and full project builds pass.
- Declaration checking and the blueprint axiom audit pass.
- Exact-head local CI and independent review pass.

---
Stage 4.3 proof packet under #47.

**Comment by Dengnifer** [comment]
### Compile-tested proofs for both targets

The following unchanged-signature proofs compile against the current Stage 4.2
surface. The two helpers are private.

```lean
theorem lowDegreeEnc_eq_dotProduct {K : Type*} [CommRing K] {m : ℕ}
    (a : Cube m → K) (x : Fin m → K) :
    lowDegreeEnc a x = dotProduct a (indicatorVec x) := by
  simp [lowDegreeEnc, lowDegreeEncoding, indicatorVec, dotProduct]

private theorem eval_indicatorPoly_cube {K : Type*} [Field K] {m : ℕ}
    (y z : Cube m) :
    eval (cubeEmbed (K := K) z) (indicatorPoly (K := K) y) =
      if y = z then 1 else 0 := by
  classical
  by_cases h : y = z
  · subst z
    rw [if_pos rfl, indicatorPoly, map_prod]
    apply Finset.prod_eq_one
    intro i _
    cases hi : y i <;> simp [hi, cubeEmbed, boolToScalar]
  · rw [if_neg h]
    have hi : ∃ i, y i ≠ z i := by
      contrapose! h
      exact funext h
    obtain ⟨i, hi⟩ := hi
    rw [indicatorPoly, map_prod]
    apply Finset.prod_eq_zero (Finset.mem_univ i)
    cases hy : y i <;> cases hz : z i <;>
      simp_all [cubeEmbed, boolToScalar]

private theorem lowDegreeEnc_cubeEmbed {K : Type*} [Field K] {m : ℕ}
    (a : Cube m → K) (z : Cube m) :
    lowDegreeEnc a (cubeEmbed z) = a z := by
  rw [show lowDegreeEnc a (cubeEmbed z) =
      dotProduct a (indicatorVec (cubeEmbed z)) by
    simp [lowDegreeEnc, lowDegreeEncoding, indicatorVec, dotProduct]]
  simp [dotProduct, indicatorVec, eval_indicatorPoly_cube]

theorem decodeAt_lowDegreeEnc {K : Type*} [Field K] [DecidableEq K] {m : ℕ}
    (H : Finset K) (a : Cube m → K) (ha : ∀ y, a y ∈ H) :
    decodeAt H (lowDegreeEnc a) = a := by
  funext y
  simp [decodeAt, lowDegreeEnc_cubeEmbed, ha y]
```

The complete scratch module type-checks with these exact signatures.
